US07186716B2
5-(5-Trifluoromethyl-1H-indazol-3-yl)-1H-pyrrole-2-carboxylic acid (3-fluoro-phenyl)-amide
A mixture of 5-(2-fluoro-5-trifluoromethyl-benzoyl)-1H-pyrrole-2-carboxylic acid (3-fluoro-phenyl)-amide, hydrazine hydrate, 1-methyl-pyrrolin-2-one and toluene was heated at 120° C. for 2 hours. The reaction was concentrated, mixed with water and filtered. The solid was washed to give the titled compound.

reactant | 5-(2-fluoro-5-trifluoromethyl-benzoyl)-1H-pyrrole-2-carboxylic acid (3-fluoro-phenyl)-amide | FC=1C=C(C=CC1)NC(=O)C=1NC(=CC1)C(C1=C(C=CC(=C1)C(F)(F)F)F)=O | C19H11F5N2O2
reactant | hydrazine hydrate | O.NN
reactant | 1-methyl-pyrrolin-2-one | CN1C(CCC1)=O | C5H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(5-Trifluoromethyl-1H-indazol-3-yl)-1H-pyrrole-2-carboxylic acid (3-fluoro-phenyl)-amide | FC=1C=C(C=CC1)NC(=O)C=1NC(=CC1)C1=NNC2=CC=C(C=C12)C(F)(F)F | C19H12F4N4O
